US04454338
To 100 ml of thionyl chloride, was added 21.6 g of 4-guanidinobenzoic acid hydrochloride. The mixture was heated with stirring under reflux for one hour. n-Hexane was added to the reaction mixture to obtain pale yellow crystals of 4-guanidinobenzoyl chloride hydrochloride. Into 200 ml of pyridine, was dissolved 28.2 g of 6-amidino-2-naphthol methanesulfonate. To the resulting solution, while being cooled in ice, was added 4-guanidinobenzoyl chloride hydrochloride which was obtained above. The mixture was stirred under cooling in ice for one hour and then at room temperature overnight. After completion of the reaction, the reaction mixture was mixed with about 300 ml of ethyl ether. The oily substance which was separated was dissolved in about 300 ml of water and the insolubles were removed by filtration. A saturated aqueous sodium hydrogencarbonate solution was added to the filtrate to precipitate pale yellow crystals. The crystals were collected by filtration and washed with water and acetone to obtain 30 g (63.7% yield) of 6-amidino-2-naphthyl 4-guanidinobenzoate carbonate. The carbonate was suspended in 100 ml of methanol. Upon addition of 17 g of methanesulfonic acid to the suspension, a clear solution was formed accompanied by effervescence. About 200 ml of ethyl ether was added to the solution to precipitate white crystals which were collected by filtration to obtain 6-amidino-2-naphthyl 4-guanidinobenzoate dimethanesulfonate.

reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-guanidinobenzoic acid hydrochloride | 21.6 g | Cl.N(C(=N)N)C1=CC=C(C(=O)O)C=C1
solvent | n-Hexane | CCCCCC | C6H14
product | 4-guanidinobenzoyl chloride hydrochloride | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1 | InChI=1S/C8H8ClN3O.ClH/c9-7(13)5-1-3-6(4-2-5)12-8(10)11;/h1-4H,(H4,10,11,12);1H
